US07671238B2
A mixture of ethyl (2RS,3RS)-2-hydroxy-3-[methyl(phenyl)amino]-3-phenylpropanoate (1.20 g, 4.00 mmol) and methanolic ammonia solution (7 N, 20 mL) was stirred at 100° C. in a sealed tube for 5 hours. After cooling, all volatiles were removed under reduced pressure. The resulting yellow oil was purified via silica gel chromatography (15-30% isopropanol/hexane) and recrystallized (warm ethyl acetate/hexane/−25° C.) to yield 582 mg (54%) of (2RS,3RS)-2-hydroxy-3-[methyl(phenyl)amino]-3-phenylpropanamide as white needles. MS (ESI) m/z 268.9 ([M−H]−); HRMS: calculated for C16H18N2O2+H, 271.1447; found (ESI, [M+H]+), 271.1458.

reactant | ethyl (2RS,3RS)-2-hydroxy-3-[methyl(phenyl)amino]-3-phenylpropanoate | 4.00 mmol, 1.20 g | OC(C(=O)OCC)C(C1=CC=CC=C1)N(C1=CC=CC=C1)C | C18H21NO3
reactant | ammonia | 7 N, 20 mL | N | H3N
product | (2RS,3RS)-2-hydroxy-3-[methyl(phenyl)amino]-3-phenylpropanamide | 582 mg, 54% | OC(C(=O)N)C(C1=CC=CC=C1)N(C1=CC=CC=C1)C | C16H18N2O2
